US09029395B2
To a flask was charged with ethyl (4-bromophenyl)acetate (0.174 mL, 1.000 mmol), 1-methylethyl [(2S,4R)-1-acetyl-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydro-4-quinolinyl]carbamate (416 mg, 1 mmol), potassium carbonate (415 mg, 3.00 mmol) and PdCl2(dppf) (73.2 mg, 0.100 mmol) was added 1,4-dioxane (6 mL) and water (2.0 mL) and the flask flushed with nitrogen. The resulting mixture was stirred under microwave irradiation at 120° C. for 30 min then cooled to room temperature. The bulk of dioxane was removed in vacuo and the residue partitioned between EtOAc and water. The layers were separated and the aqueous phase was extracted with EtOAc. The combined organic layers were washed with brine, dried over MgSO4 and concentrated in vacuo. The residue was purified by chromatography [(25 g column, MeOH/DCM)] to give ethyl 2-(4-((2S,4R)-1-acetyl-4-((isopropoxycarbonyl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)phenyl)acetate (270 mg, 59.7% yield). This compound was used in the next step without further purification. LCMS (HpH, 2 min), Rt=1.16, MH+=453.

reactant | ethyl (4-bromophenyl)acetate | 1.000 mmol, 0.174 mL | BrC1=CC=C(C=C1)CC(=O)OCC | C10H11BrO2
reactant | 1-methylethyl [(2S,4R)-1-acetyl-2-methyl-6-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)-1,2,3,4-tetrahydro-4-quinolinyl]carbamate | 1 mmol, 416 mg | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)B1OC(C(O1)(C)C)(C)C)NC(OC(C)C)=O)C | C22H33BN2O5
reactant | potassium carbonate | 3.00 mmol, 415 mg | C([O-])([O-])=O.[K+].[K+]
reactant | 1,4-dioxane | 6 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.100 mmol, 73.2 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
solvent | water | 2.0 mL | O | H2O
product | ethyl 2-(4-((2S,4R)-1-acetyl-4-((isopropoxycarbonyl)amino)-2-methyl-1,2,3,4-tetrahydroquinolin-6-yl)phenyl)acetate | 270 mg, 59.7% yield | C(C)(=O)N1[C@H](C[C@H](C2=CC(=CC=C12)C1=CC=C(C=C1)CC(=O)OCC)NC(=O)OC(C)C)C | C26H32N2O5
